US06087380
2-[2-(4-amidinophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 10 from 2-[2-(4-amidinophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 77% of theory, C26H24N4O3S (472.57) Rf value: 0.18 (silica gel; methylene chloride/ethanol=4:1+a few drops of acetic acid) ##EQU5##

reactant | 2-[2-(4-amidinophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CCC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2-[2-(4-amidinophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 77% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CCC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)O | InChI=1S/C26H24N4O3S.ClH/c27-25(28)18-9-6-17(7-10-18)8-13-23-29-21-16-19(11-12-22(21)34-23)26(33)30(15-14-24(31)32)20-4-2-1-3-5-20;/h1-7,9-12,16H,8,13-15H2,(H3,27,28)(H,31,32);1H
